Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-3.80798226685
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8]>>[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8].[O:1],7.99067863621
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][O:9][H:10]>>[C:3]([H:4])=[C:5]([H:6])[C:7]#[C:8][O:9][H:10].[H:1][C:2],6.75118534844
[C:9][H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12],-7.166990600389999
[C:3]([H:4])([C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.634403471830001
[H:1].[O:2]=[C:3][O:4][H:5]>>[H:1][O:2][C:3][O:4][H:5],-2.54853270509
[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8].[H:9]>>[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9],-4.50672582233
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.22781759374
[H:1][C:2]([H:3])[C:4]1=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:11]([C:8]([O:7][C:5][H:6])([H:9])[H:10])([H:12])[H:13],3.54125153818
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[H:9].[H:5],4.778393958090001
[H:15].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.2592042753
[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.63558299
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:10][C:11]([H:12])[H:13].[H:9],3.44007863367
[C:3](=[O:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]([C:2])[H:5]>>[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.89411087657
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])[H:8],4.50248491175
[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4],4.26920598455
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-5.04067932286
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5],0.753767594291
[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4][H:5].[H:6],5.07960725809
[H:1][C:2]([H:3])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.44474299518
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3],3.50259588209
[H:1]/[C:2](=[C:3](/[O:4][C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1]/[C:2](=[C:3](/[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.49883578955
[C:2]([H:3])[O:4][C:5]([H:6])[H:7].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],-7.55571056127
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[O:9]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9]1,1.4519498301499998
[H:1][C:2][C:4]([H:5])([H:6])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.16769083719
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-4.046928125819997
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.51923720052
[H:6].[O:1]=[C:2]([O:3][C:4]#[C:5])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-5.775381514279999
[C:10]([H:11])([H:12])([C:13][H:14])[H:18].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18],-4.79305439
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2],5.8780356122500015
